US09290487B2
Step 1 Synthesis of 7-bromo-4,5-difluoro-2-methyl-1-benzothiophene
2-Bromo-4,5-difluorothiophenol (4.68 g, 20.8 mmol), 2,3-dichloro-1-propene (2.1 mL, 22.9 mmol), potassium carbonate (3.45 g, 24.9 mmol), and acetone (100 mL) were added, and stirred at 60° C. for 2 hours. The solvent was distilled away under reduced pressure, and after diluted with ethyl acetate, the resultant was washed with water and saturated brine, and then dried over anhydrous magnesium sulfate. The solvent was distilled away, and to the resulting residue, dimethylaniline (50 mL) was added, and stirred at 220° C. overnight. After cooling, ethyl acetate and a 2 N hydrochloric acid aqueous solution were added to the reaction solution and stirred. After the insoluble material was filtered off, extraction was performed with ethyl acetate. The organic phase was washed with a saturated aqueous sodium hydrogen carbonate solution and saturated brine, and then dried over anhydrous magnesium sulfate. The solvent was distilled away under reduced pressure. The resulting residue was purified by silica gel chromatography (hexane) to thus obtain the title compound.

reactant | 2-Bromo-4,5-difluorothiophenol | 20.8 mmol, 4.68 g | BrC1=C(C=C(C(=C1)F)F)S | C6H3BrF2S
reactant | 2,3-dichloro-1-propene | 22.9 mmol, 2.1 mL | ClC(=C)CCl | C3H4Cl2
reactant | potassium carbonate | 24.9 mmol, 3.45 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 7-bromo-4,5-difluoro-2-methyl-1-benzothiophene | yield: 75% | BrC1=CC(=C(C=2C=C(SC21)C)F)F | C9H5BrF2S
